US04035422
4.5 g (0.03 mole) of 3-amino-2,6-dimethyl phenol are dissolved in 30 cm3 of ethyl acetate. 4 cm3 of propionic anhydride are added and the mixture heated at reflux for 30 minutes. After cooling, drying yields 4.4 g of 3-propionylamino-2,6-dimethyl phenol which after recrystallization in ethyl acetate, melts at 140°.

reactant | 3-amino-2,6-dimethyl phenol | 0.03 mole, 4.5 g | NC=1C(=C(C(=CC1)C)O)C | C8H11NO
reactant | propionic anhydride | 4 cm3 | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | ethyl acetate | 30 cm3 | C(C)(=O)OCC | C4H8O2
product | 3-propionylamino-2,6-dimethyl phenol | 4.4 g | C(CC)(=O)NC=1C(=C(C(=CC1)C)O)C | C11H15NO2
